US04940719
9-p-Chlorobenzyl-6,8-dimethyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid, methyl ester
Following the procedure of Example 30, but using 1-(2,4-dimethylphenyl) hydrazine hydrochloride and ethyl 2-cyclohexanone acetate in Step I, as starting materisl, the title compound is prepared.

reactant | 1-(2,4-dimethylphenyl) hydrazine hydrochloride | Cl.CC1=C(C=CC(=C1)C)NN
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | 9-p-Chlorobenzyl-6,8-dimethyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetic acid, methyl ester | ClC1=CC=C(CN2C3=C(C=C(C=C3C=3CCCC(C23)CC(=O)OC)C)C)C=C1 | C24H26ClNO2
